US05049673
FIG. 5. Fluorescence intensity of fluo-3 (note log axis) vs. pH at 0, 160 nM, 800 nM, and 1 mM [Ca2+ ], 22°±2° C. All solutions contained 10 microM fluo-3, 100 mM KCl, and 10 mM Tris-MOPS, and were adjusted in pH with sufficiently concentrated H3PO4, HOAc, or KOH so as not to change the volume significantly during the titration. The "O Ca" points (open circles) were obtained with 5 mM EDTA and no added Ca; the "160 nM" (triangles) and "800 nM" (x) data were obtained with 5.2 mM dibromo-BAPTA. As explained in Experimental Procedures, the total Ca2+ was increased from 0.25 to 0.47 mM to maintain free [Ca2+ ]at 160 nM as the pH was increased from 5.6 to 8.1; for 800 nM free [Ca2+ ], total Ca2+ was 1.04 to 1.73 mM over the same pH range. The "1 mM ca" (+) points were obtained with 1 mM CaCl2 and no phosphate (to avoid precipitation). The ordinate in arbitrary intensity units refers to the integral of the excitation spectrum from 420 to 520 nm with emission collected at 530 nm, 9 nm bandwidth. Because the spectra retained the same shape throughout the titration, integration was a convenient way of averaging and reducing each spectrum to a single intensity value.

reactant | fluo-3 | CC1=CC(=C(C=C1)N(CC(=O)O)CC(=O)O)OCCOC2=C(C=CC(=C2)C3=C4C=C(C(=O)C=C4OC5=CC(=C(C=C53)Cl)O)Cl)N(CC(=O)O)CC(=O)O | C36H30Cl2N2O13
reactant | KCl | 100 mM | [Cl-].[K+]
reactant | Tris MOPS | 10 mM | C(C(CO)(CO)N)O.C1COCCN1CCCS(=O)(=O)O
reactant | H3PO4 | OP(=O)(O)O | H3O4P
reactant | KOH | [OH-].[K+]
solvent | HOAc | CC(=O)O | C2H4O2
product | EDTA | 5 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
